US05567849
Preparation of Borane-Diisoamyl Sulfide
Diborane generated as described in Example 6 was passed through a bubbler containing sodium borohydride (0.1 g) in diglyme (5 ml) and a trap cooled to -78° C. was absorbed in neat diisoamyl sulfide (8.67 g, 50 mmol) at 0° C. Excess diborane was absorbed in the next bubbler containing tetrahydrofuran (10 ml) over mercury and cooled in ice water. A mercury bubbler was connected to the exit. Diborane was passed into the sulfide until the concentration of borane in THF reached 1M. Borane-diisoamyl sulfide, a colorless liquid, was stirred overnight at room temperature prior to disconnecting the bubblers and then analyzed for active hydride by a standard procedure using a water-glycerol-methanol 1:1:1 hydrolyzing mixture. Concentration 4.2M, 11B NMR, δ, -22.5 ppm.

reactant | Diborane | B#B | B2
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | diisoamyl sulfide | 50 mmol, 8.67 g | C(CC(C)C)SCCC(C)C | C10H22S
solvent | diglyme | 5 ml | COCCOCCOC | C6H14O3
product | Borane Diisoamyl Sulfide | B.C(CC(C)C)SCCC(C)C | InChI=1S/C10H22S.BH3/c1-9(2)5-7-11-8-6-10(3)4;/h9-10H,5-8H2,1-4H3;1H3
